US05981776
Process for the preparation of 3-methyl-3-(1,2,3,4-tetrahydro-1,4a,9b-trimethyl-1,4-methanodibenzofuran-8-yl)-2H-1-benzofuran-6-carboxylic acid
A mixture of methyl 3-methyl-3-(1,2,3,4-tetrahydro-1,4a,9b-trimethyl-1,4-methanodibenzofur-8-yl)-2H-1-benzofuran-6-carboxylate (0.41 g, 0.98 mmol), sodium hydroxide (0.1 g, 2.5 mmol), lithium hydroxide (0.1 g, 2.5 mmol), methanol and water in THF is stirred for 48 h at room temperature.

reactant | methyl 3-methyl-3-(1,2,3,4-tetrahydro-1,4a,9b-trimethyl-1,4-methanodibenzofur-8-yl)-2H-1-benzofuran-6-carboxylate | 0.98 mmol, 0.41 g | CC1(COC2=C1C=CC(=C2)C(=O)OC)C=2C=CC1=C(C3(C(O1)(C1CCC3(C1)C)C)C)C2 | C27H30O4
reactant | sodium hydroxide | 2.5 mmol, 0.1 g | [OH-].[Na+]
reactant | lithium hydroxide | 2.5 mmol, 0.1 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-methyl-3-(1,2,3,4-tetrahydro-1,4a,9b-trimethyl-1,4-methanodibenzofuran-8-yl)-2H-1-benzofuran-6-carboxylic acid | CC1(COC2=C1C=CC(=C2)C(=O)O)C=2C=CC1=C(C3(C(O1)(C1CCC3(C1)C)C)C)C2 | C26H28O4
